** sch_path: /foss/designs/ttsky26c-saradc/xschem/sar-adc_tb/comparator_tb.sch
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt
.include /foss/pdks/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice

**.subckt comparator_tb
Xcomparator avdd vop clkc von vip vin 0 dvdd 0 rdy comparator
Vavdd avdd 0 1.8
Vcm net2 0 0.9
Vdvdd dvdd 0 1.8
Evin vin net2 net1 0 -1
Evip vip net2 net1 0 1
Vdiff net1 0 PULSE(-0.75 0.75 0 21.74n 21.74n 1p 43.47n)
Vclk clks 0 PULSE(0 1.8 100n 100p 100p 14.9n 84.9n)
x1 clks delay10 0 0 dvdd dvdd clkc sky130_fd_sc_hd__nor2_2
x2 rdy 0 0 dvdd dvdd delay1 sky130_fd_sc_hd__dlygate4sd3_1
x3 delay1 0 0 dvdd dvdd delay2 sky130_fd_sc_hd__dlygate4sd3_1
x4 delay2 0 0 dvdd dvdd delay3 sky130_fd_sc_hd__dlygate4sd3_1
x5 delay3 0 0 dvdd dvdd delay4 sky130_fd_sc_hd__dlygate4sd3_1
x6 delay4 0 0 dvdd dvdd delay5 sky130_fd_sc_hd__dlygate4sd3_1
x7 delay5 0 0 dvdd dvdd delay6 sky130_fd_sc_hd__dlygate4sd3_1
x8 delay6 0 0 dvdd dvdd delay7 sky130_fd_sc_hd__dlygate4sd3_1
x9 delay7 0 0 dvdd dvdd delay8 sky130_fd_sc_hd__dlygate4sd3_1
x10 delay8 0 0 dvdd dvdd delay9 sky130_fd_sc_hd__dlygate4sd3_1
x11 delay9 0 0 dvdd dvdd delay10 sky130_fd_sc_hd__dlygate4sd3_1
**** begin user architecture code



.include ./comparator_tb.save
.control
 save all
 remzerovec
 tran 10p 250n
 write comparator_tb.raw
.endc


**** end user architecture code
**.ends

* expanding   symbol:  comparator.sym # of pins=10
** sym_path: /foss/designs/ttsky26c-saradc/xschem/sar-adc/comparator.sym
** sch_path: /foss/designs/ttsky26c-saradc/xschem/sar-adc/comparator.sch
.subckt comparator vdd vop clk von vip vin vss dvdd dvss rdy
*.ipin clk
*.ipin vip
*.ipin vin
*.iopin vdd
*.iopin vss
*.opin vop
*.opin von
*.iopin dvdd
*.iopin dvss
*.opin rdy
XMinputp pcp vip net1 vss sky130_fd_pr__nfet_01v8 L=0.2 W=5 nf=1 ad=1.45 as=1.45 pd=10.58 ps=10.58 nrd=0.058 nrs=0.058 sa=0 sb=0
+ sd=0 mult=1
XMinputn pcn vin net1 vss sky130_fd_pr__nfet_01v8 L=0.2 W=5 nf=1 ad=1.45 as=1.45 pd=10.58 ps=10.58 nrd=0.058 nrs=0.058 sa=0 sb=0
+ sd=0 mult=1
XM1a comp_von comp_vop pcp vss sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1
XM1b comp_vop comp_von pcn vss sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1
XM2a comp_von comp_vop vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1
XM2b comp_vop comp_von vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1
XMtail net1 clk vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1
XMS3 comp_vop clk vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1
XMS2 comp_von clk vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1
XMS4 pcn clk vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1
XMS1 pcp clk vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1
xnandp comp_vop net3 dvss dvss dvdd dvdd net2 sky130_fd_sc_hd__nand2_1
xnandn comp_von net2 dvss dvss dvdd dvdd net3 sky130_fd_sc_hd__nand2_1
xbuffp net2 dvss dvss dvdd dvdd von sky130_fd_sc_hd__buf_4
xbuffn net3 dvss dvss dvdd dvdd vop sky130_fd_sc_hd__buf_4
xnandrdy comp_von comp_vop dvss dvss dvdd dvdd net4 sky130_fd_sc_hd__nand2_1
xbuffrdy net4 dvss dvss dvdd dvdd rdy sky130_fd_sc_hd__buf_4
.ends

.end
