** sch_path: /foss/designs/ttsky26c-saradc/xschem/sar-adc_tb/offset_sar-adc_tb.sch
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt
.include /foss/pdks/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice

**.subckt offset_sar-adc_tb
xtop vin vip clks D7 D6 D5 D4 D3 D2 D1 D0 dvdd 0 avdd 0 EOC sar-adc
Vclk clks 0 PULSE(0 1.8 10n 100p 100p 14.9n 100n)
Vavdd avdd 0 1.8
Vdvdd dvdd 0 1.8
Voff net1 0 DC 0.9
En vin net1 net2 0 -0.5
Ep vip net1 net2 0 0.5
Vd net2 0 DC 0.59434
**** begin user architecture code



.control
 set appendwrite
 foreach vv -0.020 -0.018 -0.016 -0.014 -0.012 -0.010 -0.008 -0.006 -0.004 -0.002
 +        0.000 0.002 0.004 0.006 0.008 0.010 0.012 0.014 0.016 0.018 0.020
   alter Vd = $vv
   tran 20p 30n
   meas tran d7v find v(D7) at=29n
   echo 'SWEEP $vv $&d7v'
   write offset_sar-adc_tb.raw v(D7) v(clks) v(xtop.clkc) v(xtop.ctopp) v(xtop.ctopn)
 +      v(xtop.xcomparator.vtail)
   destroy $curplot
 end
 unset appendwrite
.endc




.param nfft = 64
.param mcyc = 29
.param fs = 10e6
.param fin  = 'mcyc/nfft*fs'     $ 4.53125 MHz
.param amp  = 0.88               $ hampir full-scale single-ended
.param off  = 0.9                $ V_CM
.param namp = '-amp'             $ amplitudo sisi n (fase berlawanan)
.options reltol=1e-4 vntol=1e-8 abstol=1e-14 chgtol=1e-16


**** end user architecture code
**.ends

* expanding   symbol:  sar-adc.sym # of pins=9
** sym_path: /foss/designs/ttsky26c-saradc/xschem/sar-adc/sar-adc.sym
** sch_path: /foss/designs/ttsky26c-saradc/xschem/sar-adc/sar-adc.sch
.subckt sar-adc vinn vinp clks D7 D6 D5 D4 D3 D2 D1 D0 dvdd dvss avdd avss EOC
*.ipin vinn
*.ipin vinp
*.ipin clks
*.opin EOC
*.iopin dvdd
*.iopin dvss
*.iopin avdd
*.iopin avss
*.opin D7,D6,D5,D4,D3,D2,D1,D0
xcomparator avdd comp_vop clkc comp_von ctopp ctopn avss dvdd dvss comp_valid comparator
xcdacn ctopn NB1 NB2 NA3 NA4 NB5 NB6 NB0 avss NB4 NA5 NA6 NB3 cdac
xcdacp ctopp PB1 PB2 PA3 PA4 PB5 PB6 PB0 avss PB4 PA5 PA6 PB3 cdac
xsarlogic dvdd dvss D7 D6 D5 D4 D3 D2 D1 D0 comp_valid clks comp_vop clkc D7b D6b D5b D4b D3b D2b D1b D0b clk1 clk2 clk3 clk4 clk5
+ clk6 clk7 clk8 EOC sarlogic
xdacdrivern clk1 clk2 clk3 clk4 clk5 clk6 clk7 clk8 D7 D6 D5 D4 D3 D2 D1 D0 NA6 NA5 NA4 NA3 NB6 NB5 NB4 NB3 NB2 NB1 NB0 dvdd dvss
+ cdac_driver
xdacdriverp clk1 clk2 clk3 clk4 clk5 clk6 clk7 clk8 D7b D6b D5b D4b D3b D2b D1b D0b PA6 PA5 PA4 PA3 PB6 PB5 PB4 PB3 PB2 PB1 PB0
+ dvdd dvss cdac_driver
xbootstrapn clks vinn ctopn avdd avss bootstrap
xbootstrapp clks vinp ctopp avdd avss bootstrap
.ends


* expanding   symbol:  comparator.sym # of pins=10
** sym_path: /foss/designs/ttsky26c-saradc/xschem/sar-adc/comparator.sym
** sch_path: /foss/designs/ttsky26c-saradc/xschem/sar-adc/comparator.sch
.subckt comparator vdd vop clk von vip vin vss dvdd dvss rdy
*.ipin clk
*.ipin vip
*.ipin vin
*.iopin vdd
*.iopin vss
*.opin vop
*.opin von
*.iopin dvdd
*.iopin dvss
*.opin rdy
XMinputp pcp vip vtail vss sky130_fd_pr__nfet_01v8 L=0.2 W=5 nf=1 ad=1.45 as=1.45 pd=10.58 ps=10.58 nrd=0.058 nrs=0.058 sa=0 sb=0
+ sd=0 mult=1
XMinputn pcn vin vtail vss sky130_fd_pr__nfet_01v8 L=0.2 W=5 nf=1 ad=1.45 as=1.45 pd=10.58 ps=10.58 nrd=0.058 nrs=0.058 sa=0 sb=0
+ sd=0 mult=1
XM1a comp_von comp_vop pcp vss sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1
XM1b comp_vop comp_von pcn vss sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1
XM2a comp_von comp_vop vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1
XM2b comp_vop comp_von vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1
XMtail vtail clk vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1
XMS3 comp_vop clk vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1
XMS2 comp_von clk vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1
XMS4 pcn clk vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1
XMS1 pcp clk vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1
xnandp comp_vop net2 dvss dvss dvdd dvdd net1 sky130_fd_sc_hd__nand2_1
xnandn comp_von net1 dvss dvss dvdd dvdd net2 sky130_fd_sc_hd__nand2_1
xbuffp net1 dvss dvss dvdd dvdd von sky130_fd_sc_hd__buf_4
xbuffn net2 dvss dvss dvdd dvdd vop sky130_fd_sc_hd__buf_4
xnandrdy comp_von comp_vop dvss dvss dvdd dvdd net3 sky130_fd_sc_hd__nand2_1
xbuffrdy net3 dvss dvss dvdd dvdd rdy sky130_fd_sc_hd__buf_4
XMS5 vtail clk vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1
.ends


* expanding   symbol:  cdac.sym # of pins=13
** sym_path: /foss/designs/ttsky26c-saradc/xschem/sar-adc/cdac.sym
** sch_path: /foss/designs/ttsky26c-saradc/xschem/sar-adc/cdac.sch
.subckt cdac ctop b1 b2 b3a b4a b5b b6b b0 vss b4b b5a b6a b3b
*.iopin ctop
*.iopin b1
*.iopin b2
*.iopin b3a
*.iopin b4a
*.iopin b5a
*.iopin b6a
*.iopin b0
*.iopin b5b
*.iopin b4b
*.iopin b6b
*.iopin b3b
*.iopin vss
XC1 ctop b0 sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=1
XC2 ctop b1 sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=2 m=2
XC3 ctop b2 sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=4 m=4
XC4a ctop b3b sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=4 m=4
XC5a ctop b4b sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=8 m=8
XC6a ctop b5b sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=16 m=16
XC7a ctop b6b sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=32 m=32
XCdummy ctop vss sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=1
XC7b ctop b6a sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=32 m=32
XC6b ctop b5a sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=16 m=16
XC5b ctop b4a sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=8 m=8
XC4b ctop b3a sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=4 m=4
.ends


* expanding   symbol:  sarlogic.sym # of pins=10
** sym_path: /foss/designs/ttsky26c-saradc/xschem/sar-adc/sarlogic.sym
** sch_path: /foss/designs/ttsky26c-saradc/xschem/sar-adc/sarlogic.sch
.subckt sarlogic dvdd dvss D7 D6 D5 D4 D3 D2 D1 D0 valid clks comp_op clkc D7b D6b D5b D4b D3b D2b D1b D0b clk1 clk2 clk3 clk4
+ clk5 clk6 clk7 clk8 EOC
*.ipin valid
*.ipin clks
*.ipin comp_op
*.opin D7,D6,D5,D4,D3,D2,D1,D0
*.iopin dvdd
*.iopin dvss
*.opin clkc
*.opin D7b,D6b,D5b,D4b,D3b,D2b,D1b,D0b
*.opin clk1,clk2,clk3,clk4,clk5,clk6,clk7,clk8
*.opin EOC
x17 clks dvss dvss dvdd dvdd net1 sky130_fd_sc_hd__inv_2
x20 valid dvss dvss dvdd dvdd delay1 sky130_fd_sc_hd__dlygate4sd3_1
x21 delay1 dvss dvss dvdd dvdd delay2 sky130_fd_sc_hd__dlygate4sd3_1
x22 delay2 dvss dvss dvdd dvdd delay3 sky130_fd_sc_hd__dlygate4sd3_1
x23 delay3 dvss dvss dvdd dvdd delay4 sky130_fd_sc_hd__dlygate4sd3_1
x24 delay4 dvss dvss dvdd dvdd delay5 sky130_fd_sc_hd__dlygate4sd3_1
x25 delay5 dvss dvss dvdd dvdd delay6 sky130_fd_sc_hd__dlygate4sd3_1
x26 delay6 dvss dvss dvdd dvdd delay7 sky130_fd_sc_hd__dlygate4sd3_1
x27 delay7 dvss dvss dvdd dvdd delay8 sky130_fd_sc_hd__dlygate4sd3_1
x28 delay8 dvss dvss dvdd dvdd delay9 sky130_fd_sc_hd__dlygate4sd3_1
x29 delay9 dvss dvss dvdd dvdd valid_delayed sky130_fd_sc_hd__dlygate4sd3_1
x31 D7 dvss dvss dvdd dvdd D7b sky130_fd_sc_hd__inv_2
x32 D6 dvss dvss dvdd dvdd D6b sky130_fd_sc_hd__inv_2
x33 D5 dvss dvss dvdd dvdd D5b sky130_fd_sc_hd__inv_2
x34 D4 dvss dvss dvdd dvdd D4b sky130_fd_sc_hd__inv_2
x35 D3 dvss dvss dvdd dvdd D3b sky130_fd_sc_hd__inv_2
x36 D2 dvss dvss dvdd dvdd D2b sky130_fd_sc_hd__inv_2
x37 D1 dvss dvss dvdd dvdd D1b sky130_fd_sc_hd__inv_2
x38 D0 dvss dvss dvdd dvdd D0b sky130_fd_sc_hd__inv_2
x1 valid dvdd net1 dvss dvss dvdd dvdd clk1 sky130_fd_sc_hd__dfrtp_2
x2 valid clk1 net1 dvss dvss dvdd dvdd clk2 sky130_fd_sc_hd__dfrtp_2
x3 valid clk2 net1 dvss dvss dvdd dvdd clk3 sky130_fd_sc_hd__dfrtp_2
x4 valid clk3 net1 dvss dvss dvdd dvdd clk4 sky130_fd_sc_hd__dfrtp_2
x5 valid clk4 net1 dvss dvss dvdd dvdd clk5 sky130_fd_sc_hd__dfrtp_2
x6 valid clk5 net1 dvss dvss dvdd dvdd clk6 sky130_fd_sc_hd__dfrtp_2
x7 valid clk6 net1 dvss dvss dvdd dvdd clk7 sky130_fd_sc_hd__dfrtp_2
x8 valid clk7 net1 dvss dvss dvdd dvdd clk8 sky130_fd_sc_hd__dfrtp_2
x30 clk8 dvss dvss dvdd dvdd net2 sky130_fd_sc_hd__dlygate4sd3_1
x39 net2 dvss dvss dvdd dvdd EOC sky130_fd_sc_hd__dlygate4sd3_1
x18 clks valid_delayed clk8 dvss dvss dvdd dvdd clkc sky130_fd_sc_hd__nor3_2
x9 clk1 comp_op dvss dvss dvdd dvdd D7 sky130_fd_sc_hd__dfxtp_2
x10 clk2 comp_op dvss dvss dvdd dvdd D6 sky130_fd_sc_hd__dfxtp_2
x11 clk3 comp_op dvss dvss dvdd dvdd D5 sky130_fd_sc_hd__dfxtp_2
x12 clk4 comp_op dvss dvss dvdd dvdd D4 sky130_fd_sc_hd__dfxtp_2
x13 clk5 comp_op dvss dvss dvdd dvdd D3 sky130_fd_sc_hd__dfxtp_2
x14 clk6 comp_op dvss dvss dvdd dvdd D2 sky130_fd_sc_hd__dfxtp_2
x15 clk7 comp_op dvss dvss dvdd dvdd D1 sky130_fd_sc_hd__dfxtp_2
x16 clk8 comp_op dvss dvss dvdd dvdd D0 sky130_fd_sc_hd__dfxtp_2
.ends


* expanding   symbol:  cdac_driver.sym # of pins=6
** sym_path: /foss/designs/ttsky26c-saradc/xschem/sar-adc/cdac_driver.sym
** sch_path: /foss/designs/ttsky26c-saradc/xschem/sar-adc/cdac_driver.sch
.subckt cdac_driver clk1 clk2 clk3 clk4 clk5 clk6 clk7 clk8 D7 D6 D5 D4 D3 D2 D1 D0 A6 A5 A4 A3 B6 B5 B4 B3 B2 B1 B0 dvdd dvss
*.ipin D7,D6,D5,D4,D3,D2,D1,D0
*.opin A6,A5,A4,A3
*.opin B6,B5,B4,B3,B2,B1,B0
*.iopin dvdd
*.iopin dvss
*.ipin clk1,clk2,clk3,clk4,clk5,clk6,clk7,clk8
x7 net6 D5 dvss dvss dvdd dvdd B4 sky130_fd_sc_hd__or2_2
x8 net7 D4 dvss dvss dvdd dvdd B3 sky130_fd_sc_hd__or2_2
x9 net1 D3 dvss dvss dvdd dvdd B2 sky130_fd_sc_hd__or2_2
x10 net2 D2 dvss dvss dvdd dvdd B1 sky130_fd_sc_hd__or2_2
x11 net3 D1 dvss dvss dvdd dvdd B0 sky130_fd_sc_hd__or2_2
x3 clk3 D5 dvss dvss dvdd dvdd A4 sky130_fd_sc_hd__and2_2
x4 clk4 D4 dvss dvss dvdd dvdd A3 sky130_fd_sc_hd__and2_2
x12 clk1 dvss dvss dvdd dvdd net4 sky130_fd_sc_hd__inv_2
x13 clk2 dvss dvss dvdd dvdd net5 sky130_fd_sc_hd__inv_2
x14 clk3 dvss dvss dvdd dvdd net6 sky130_fd_sc_hd__inv_2
x15 clk4 dvss dvss dvdd dvdd net7 sky130_fd_sc_hd__inv_2
x16 clk5 dvss dvss dvdd dvdd net1 sky130_fd_sc_hd__inv_2
x17 clk6 dvss dvss dvdd dvdd net2 sky130_fd_sc_hd__inv_2
x18 clk7 dvss dvss dvdd dvdd net3 sky130_fd_sc_hd__inv_2
x1 clk1 D7 dvss dvss dvdd dvdd A6 sky130_fd_sc_hd__and2_4
x2 clk2 D6 dvss dvss dvdd dvdd A5 sky130_fd_sc_hd__and2_4
x5 net4 D7 dvss dvss dvdd dvdd B6 sky130_fd_sc_hd__or2_4
x6 net5 D6 dvss dvss dvdd dvdd B5 sky130_fd_sc_hd__or2_4
.ends


* expanding   symbol:  bootstrap.sym # of pins=5
** sym_path: /foss/designs/ttsky26c-saradc/xschem/sar-adc/bootstrap.sym
** sch_path: /foss/designs/ttsky26c-saradc/xschem/sar-adc/bootstrap.sch
.subckt bootstrap clk vin vout vdd vss
*.ipin clk
*.ipin vin
*.opin vout
*.iopin vdd
*.iopin vss
XMswitch vin vgate vout vss sky130_fd_pr__nfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1
XMdisbot cbot vgate vin vss sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1
XCboot ctop cbot sky130_fd_pr__cap_mim_m3_1 W=10 L=10 MF=1
XMdistop vgate vgdistop ctop ctop sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0
+ sb=0 sd=0 mult=1
XMchtop ctop vgate vdd ctop sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1
XMdistopdrv vgdistop vgate cbot vss sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58 nrs=0.58
+ sa=0 sb=0 sd=0 mult=1
XMchtopdrv2 vschtopdrv1 clkb vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29
+ sa=0 sb=0 sd=0 mult=1
XMchbot cbot clkb vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
XM1 vgdistop clk vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
XM2 vgdistop clk cbot vss sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58 nrs=0.58 sa=0 sb=0
+ sd=0 mult=1
XXMchtopdrv1 vgate vdd vschtopdrv1 vss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=3 nf=1 ad=0.87 as=0.87 pd=6.58 ps=6.58
+ nrd=0.0966666666666667 nrs=0.0966666666666667 sa=0 sb=0 sd=0 mult=1
x1 clk vss vss vdd vdd clkb sky130_fd_sc_hd__inv_4
.ends

.end
